US05098929
Lithium aluminium hydride (8.0 g.) in dry diethyl ether (200 ml) was stirred at 0°, under a current of dry nitrogen. Diethyl 2-acetyl-2- ethylmalonate (30 g.) in dry ether (50 ml) was added and the mixture was stirred at room temperature for three hours. The mixture was then refluxed, with stirring, for eight hours. A solution of sodium hydroxide (20 g.) and potassium hydrogen phosphate (20 g.) in water (150 ml) was added carefully to the cooled reaction mixture. The pH was adjusted to 5.0 with glacial acetic acid. The solid was removed by filtration and washed with water (20 ml). The combined filtrates and washings were evaporated in vacuo. The residue was washed with acetone (3×100 ml). The acetone washings were evaporated in vacuo. The reside was washed with chloroform (3×100 ml) and the washings were evaporated in vacuo. 2-Ethyl-2-hydroxymethylbutan-1,3-diol was obtained as a pale yellow oil (8.0 g.) Nuclear magnetic resonance spectrum (NMR) was as follows: ' H (ppm from TMS in CDCl3, integral, number of peaks, JHz): 4.2, 3H, broad singlet; 4.1, 1H, m; 3.8, 4H, m; 1.4, 5H, m; 1.0, 3H, m.

reactant | Lithium aluminium hydride | 8.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Diethyl 2-acetyl-2- ethylmalonate | 30 g | C(C)(=O)C(C(=O)OCC)(C(=O)OCC)CC | C11H18O5
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | potassium hydrogen phosphate | 20 g | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Ethyl-2-hydroxymethylbutan-1,3-diol | C(C)C(CO)(C(C)O)CO | C7H16O3
